US08754114B2
N-{3-[7-(1-{1-[(Dimethylamino)acetyl]piperidin-4-yl}-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 30 (Step 6) starting from N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea and dimethylaminoacetyl chloride hydrochloride (Lancaster, Cat. No. L18475). LCMS (M+H)+: m/z=570.2.

reactant | N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H23F3N8O
reactant | dimethylaminoacetyl chloride hydrochloride | Cl.CN(C)CC(=O)Cl
product | N-{3-[7-(1-{1-[(Dimethylamino)acetyl]piperidin-4-yl}-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | CN(C)CC(=O)N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C27H30F3N9O2
